US08026236B2
K: N-(3-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)-phenoxy)propyl)methanesulfonamide
Methanesulphonyl chloride (31 mg) was added to the solution of 6-[4-(3-Aminopropoxy)-3-(trifluoromethyl)-phenyl]-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (20 mg) in DCM (1 ml) containing DIPEA (44 uL). The mixture was stirred at rt for 1 hour, then solvent removed under vacuum and residue dissolved in NMP (1 ml) and purified by HPLC to give expected product, N-(3-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)propyl)methanesulfonamide.

reactant | Methanesulphonyl chloride | 31 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-[4-(3-Aminopropoxy)-3-(trifluoromethyl)-phenyl]-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 20 mg | NCCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C18H16F3N5O
reactant | DIPEA | 44 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | N-(3-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)propyl)methanesulfonamide | C(#N)C1=NC(=CC2=C1N=CN2C)C2=CC(=C(OCCCNS(=O)(=O)C)C=C2)C(F)(F)F | C19H18F3N5O3S
